US04331674
145 g (0.4 mol) of 4-bromo-4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-butanoic acid ethyl ester were dissolved in 800 ml of acetonitrile. 100 g (1.45 mol) of imidazole were added and the mixture was heated for 20 hours under reflux. The solvent was then distilled off in vacuo, the residue was taken up in 500 ml of methylene chloride and the solution was washed three times with 200 ml of water each time, dried over sodium sulphate and concentrated. The oil which remained was dissolved in 800 ml of acetone and 100 g (0.35 mol) of 1,5-naphthalenedisulphonic acid in 300 ml of acetone were added. The resulting crystalline precipitate was filtered off and dried. 122.5 g (62% of theory) of 4-(4-chlorophenoxy)-2,2-dimethyl-4-(imidazol-1-yl)-3-keto-butanoic acid ethyl ester 1,5-naphthalenedisulphonate of melting point 194° C. were obtained.

reactant | 4-bromo-4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-butanoic acid ethyl ester | 0.4 mol, 145 g | C(C)OC(C(C(C(OC1=CC=C(C=C1)Cl)Br)=O)(C)C)=O | C14H16BrClO4
reactant | imidazole | 1.45 mol, 100 g | N1C=NC=C1 | C3H4N2
reactant | 1,5-naphthalenedisulphonic acid | 0.35 mol, 100 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 4-(4-chlorophenoxy)-2,2-dimethyl-4-(imidazol-1-yl)-3-keto-butanoic acid ethyl ester 1,5-naphthalenedisulphonate | 122.5 g, 62% | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O.C(C)OC(C(C(C(N1C=NC=C1)OC1=CC=C(C=C1)Cl)=O)(C)C)=O | InChI=1S/C17H19ClN2O4.C10H8O6S2/c1-4-23-16(22)17(2,3)14(21)15(20-10-9-19-11-20)24-13-7-5-12(18)6-8-13;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16/h5-11,15H,4H2,1-3H3;1-6H,(H,11,12,13)(H,14,15,16)
